US08383652B2
0.075 mL (0.75 mmol) of n-butylamine is added to a solution of 0.4 g (0.6 mmol) of methyl (Z)-3-{2-butoxy-3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}-2-methoxyacrylate in 5 mL of dimethylformamide. The reaction mixture is rapidly placed in an oil bath preheated to 80° C. and then stirred at 80° C. for 3 hours. After cooling, the reaction is stopped by addition of 10 mL of water and extraction with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and then dried over magnesium sulfate. The solvents are evaporated off. The crude product obtained is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture to give 0.2 g (67%) of methyl (Z)-3-[2-butoxy-3′-(3-butyl-1-methylureido)biphenyl-4-yl]-2-methoxyacrylate in the form of a colorless oil.

reactant | n-butylamine | 0.75 mmol, 0.075 mL | C(CCC)N | C4H11N
reactant | methyl (Z)-3-{2-butoxy-3′-[methyl-(4-nitrophenoxycarbonyl)amino]biphenyl-4-yl}-2-methoxyacrylate | 0.6 mmol, 0.4 g | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OC)C1=CC(=CC=C1)N(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C | C29H30N2O8
reactant | water | 10 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl (Z)-3-[2-butoxy-3′-(3-butyl-1-methylureido)biphenyl-4-yl]-2-methoxyacrylate | 0.2 g, 67% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OC)C1=CC(=CC=C1)N(C(=O)NCCCC)C | C27H36N2O5
